US04898455
A solution of 16.3 g of p-[trans-4-(p-anisyloxymethyl)-cyclohexyl]benzoyl chloride in 50 ml of dichloroethane is cooled to 7° C. and treated portionwise under nitrogen within 5 minutes with 6.4 g of powdered aluminium chloride. A weak stream of acetylene gas is then conducted through the reaction mixture at 45° C. for 17 hours. The reaction mixture is subsequently poured into 100 ml of ice-water, treated with 50 ml of 3N hydrochloric acid and stirred for 10 minutes. The mixture is extracted with diethyl ether. The organic phase is washed in succession with water, with 5 percent potassium hydroxide solution and several times with water, then dried over magnesium sulphate and evaporated. The trans-4-(p-anisyloxymethyl)-1-[p-(3-chloroacryloyl)phenyl]cyclohexane obtained is purified by chromatography on silica gel.

reactant | p-[trans-4-(p-anisyloxymethyl)-cyclohexyl]benzoyl chloride | 16.3 g | C(C1=CC=C(C=C1)OC)OC[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)Cl)C=C1 | C22H25ClO3
reactant | aluminium chloride | 6.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetylene | C#C | C2H2
reactant | hydrochloric acid | 3N, 50 ml | Cl | ClH
reactant | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
product | trans-4-(p-anisyloxymethyl)-1-[p-(3-chloroacryloyl)phenyl]cyclohexane | C(C1=CC=C(C=C1)OC)OC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C(C=CCl)=O | C24H27ClO3
